US04710579
By following a procedure of Reference Example 1, 6.2 g (60 mmole) of 1,5-pentanediol and 5.7 g (30 mmole) of tosyl chloride were treated to give 1,5-pentanediol monotosylate as a colorless oily material Yield 4.1 g (yield: 53%).

reactant | 1,5-pentanediol | 60 mmole, 6.2 g | C(CCCCO)O | C5H12O2
reactant | tosyl chloride | 30 mmole, 5.7 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
product | 1,5-pentanediol monotosylate | S(=O)(=O)(C1=CC=C(C)C=C1)OCCCCCO | C12H18O4S
